US06599915B2
{7-Nitro-8-[3-oxo-1-propenyl]-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate
{(2R)-7-nitro-8-[1-propenyl]-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate (6.15 g, 15.2 mmole) was dissolved in 180 mL of dioxane. Selenium dioxide (4.20 g, 37.9 mmole) was then added, followed by 0.70 mL of water. The heterogeneous mixture was heated at reflux under nitrogen for 5 hours. Upon cooling, the reaction was filtered and concentrated in vacuum to yield a dark yellow solid. This was dissolved in minimal ethyl acetate and column chromatographed on silica gel using 30% ethyl acetate in hexane as eluant to give 5.75 g of the (R)-enantiomer of the title compound as a light yellow solid (m.p. 138-140° C.).

reactant | {(2R)-7-nitro-8-[1-propenyl]-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate | 15.2 mmole, 6.15 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)[N+](=O)[O-])C=CC | C19H19NO7S
reactant | Selenium dioxide | 37.9 mmole, 4.20 g | [Se](=O)=O | O2Se
reactant | water | 0.70 mL | O | H2O
solvent | dioxane | 180 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {7-Nitro-8-[3-oxo-1-propenyl]-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC2=C(O1)C(=C(C=C2)[N+](=O)[O-])C=CC=O | C19H17NO8S
